US07737166B2
6-Bromo-2-cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-1,3-benzoxazole-4-carbonitrile (#17)
(3S)-3-(Dimethylamino)pyrrolidine (157 μl, 1.24 mmol) and triethylamine (348 μl, 2.50 mmol), were added to a dimethyl sulfoxide (5 ml) solution of 6-bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-77) (304 mg, 1.03 mmol). The system was purged with nitrogen and then sealed up and heated at 90° C. for 2 hours. After cooling, the solvent was evaporated away under reduced pressure, then the resulting residue was dissolved in chloroform, washed with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate, then the solvent was evaporated away under reduced pressure, the resulting residue was washed with a mixed solvent of isopropyl ether and ethanol. The crystal was collected by filtration to obtain the entitled compound (106 mg, 26%) as a colorless solid.

reactant | (3S)-3-(Dimethylamino)pyrrolidine | 1.24 mmol, 157 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | triethylamine | 2.50 mmol, 348 μl | C(C)N(CC)CC | C6H15N
reactant | 6-bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 1.03 mmol, 304 mg | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C12H8BrFN2O
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 6-Bromo-2-cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-1,3-benzoxazole-4-carbonitrile | 106 mg, 26% | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)N1C[C@H](CC1)N(C)C | C18H21BrN4O
